### PR TITLE
[Merged by Bors] - feat: recognize scientific notation in `norm_num`

### LINKED ISSUE #1706: Recognize scientific notation in `norm_num`
Currently scientific notation doesn't work in `norm_num`. For example, the following should work:
```
example : (0.1 : ℚ) = 1/10 := by norm_num1
```
We should also be able to infer an `OfScientific` instance for any `CharZero` `DivisionRing`.

### PR DESCRIPTION
**Pull request by thorimur**
We implement #1706.

In addition to a `norm_num` extension for `OfScientific.ofScientific`, we implement extensions for
* `Int.ofNat`
* `mkRat`
* `Rat.cast`/`RatCast.ratCast`

which made implementation more convenient. We also patch up the other two `*.cast` evaluators consistently while we're at it.

We create an instance of `OfScientific K` for any division ring `K`.

See [Zulip discussion here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/OfScientific) for the original discussion, and [this Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/finishing.20up.20ofScientific.20in.20norm_num) for the more recent one.

---

- [x] depends on: #1568
- [x] depends on: #1711
- [x] depends on: leanprover/std4#101
- [x] depends on: std4 bump
- [x] depends on: leanprover/std4#109
- [x] depends on: #3113
-->

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1568
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Tactic/NormNum/Basic.lean [hunk 1]
```diff
@@ -83,6 +85,54 @@ theorem isInt_cast {R} [Ring R] (n m : ℤ) :
...
+      rw [Rat.coe_nat_eq_divInt <| Nat.succ d, Rat.divInt_mul_divInt_cancel, Rat.divInt_one]
+      simp
+      norm_cast
+      have h₃ := h₂.symm ▸ pow_pos (a := 10) (by decide) e
+      exact Nat.pos_iff_ne_zero.1 <| pos_of_mul_pos_left h₃ (by simp)
+    ⟩
+
+--!! Does this belong here?
+instance DivisionRing.instOfScientific [DivisionRing α] [CharZero α] : OfScientific α where
+  ofScientific (m : ℕ) (b : Bool) (d : ℕ) := Rat.ofScientific m b d
```
Comment (hrmacbeth) [inline Mathlib/Tactic/NormNum/Basic.lean:109]: I think this should be out in the main library.  I'm wondering, though, if this will conflict with Rat.ofScientific in the case of α = Rat?  Maybe we need to do something like
- Rat.ofScientific is a `def` not an instance in Std
- in Mathlib, `DivisionRing.instOfScientific` is an instance, and `Rat` gets its OfScientific instance from that
- in other `Std` users, `Rat.ofScientific` is made an instance post-facto.

But don't act on my speculations, let's see what an expert thinks.

Comment (gebner) [reply Mathlib/Tactic/NormNum/Basic.lean:109]: Such an instance definitely belongs in another file.  I think it would be best if `DivisionRing` extended `OfScientific` (to avoid potential diamonds).

Comment (thorimur) [reply Mathlib/Tactic/NormNum/Basic.lean:109]: There seems to be support for that on zulip as well (linked thread). Though, @digama0, you suggested a blanket implementation for anything that has an instance of `RatCast`. In almost all practical cases, I imagine, this will mean it is a `DivisionRing` anyway—but there could be edge cases I don't know of. Do you have an opinion on adding a field to `DivisionRing` vs. making a blanket instance?

Comment (digama0) [reply Mathlib/Tactic/NormNum/Basic.lean:109]: I meant something with the instances you need to get `Rat.cast`, not `RatCast` directly but the lawful typeclass that implies it (I think this is `DivisionRing` alone)

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1568~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1568~~
* ~~leanprover-community/mathlib4#1711~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/Invertible.lean [hunk 2]
```diff
@@ -81,31 +81,49 @@ prefix:max
   Invertible.invOf
 
 @[simp]
+theorem invOf_mul_self' [Mul α] [One α] (a : α) {_ : Invertible a} : ⅟ a * a = 1 :=
```
Comment (fpvandoorn) [inline Mathlib/Algebra/Invertible.lean:84]: Can you explain in a docstring / module doc why we need to duplicate these lemmas?

**Review by fpvandoorn — APPROVED** [review]
LGTM

I think I caused a merge conflict with #2419. I'm planning to change the behavior of `to_additive` so that all the new attributes are not necessary, so don't worry about adding attributes to any new declarations.

File: Mathlib/Algebra/Invertible.lean (hunk 2 above)
Comment (thorimur) [reply Mathlib/Algebra/Invertible.lean:103]: Okay, done (in the Invertible.lean module doc), under `## Implementation Notes`:
```
### Typeclass search vs. unification for `simp` lemmas

Note that since typeclass search searches the local context first, an instance argument like
`[Invertible a]` might sometimes be filled by a different term than the one we'd find by
unification (i.e., the one that's used as an implicit argument to `⅟`).

This can cause issues with `simp`. Therefore, some lemmas are duplicated, with the `@[simp]`
versions using unification and the user-facing ones using typeclass search.

Since unification can make backwards rewriting (e.g. `rw [← mylemma]`)
slow, we still want the instance-argument versions; therefore the user-facing versions retain the
instance arguments and the original lemma name, whereas the `@[simp]`/unification ones acquire a
`'` at the end of their name.

We modify this file according to the above pattern only as needed; therefore, most `@[simp]` lemmas
here are not part of such a duplicate pair. This is not (yet) intended as a permanent solution.

See Zulip: [https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Invertible.201.20simps/near/320558233]
```

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1568~~
* ~~leanprover-community/mathlib4#1711~~
* ~~leanprover/std4#101~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/Invertible.lean [hunk 3]
```diff
@@ -54,6 +54,25 @@ def something_one := something_that_needs_inverses 1
...
+### Typeclass search vs. unification for `simp` lemmas
+
+Note that since typeclass search searches the local context first, an instance argument like
+`[Invertible a]` might sometimes be filled by a different term than the one we'd find by
+unification (i.e., the one that's used as an implicit argument to `⅟`).
+
+This can cause issues with `simp`. Therefore, some lemmas are duplicated, with the `@[simp]`
+versions using unification and the user-facing ones using typeclass search.
+
+Since unification can make backwards rewriting (e.g. `rw [← mylemma]`)
```
Comment (fpvandoorn) [inline Mathlib/Algebra/Invertible.lean:66]: presumably it's not only slow, but the backwards rewrite will probably just fail if the LHS contains an `Invertible` type-class that the RHS doesn't contain, right? (Or at least `simp [← mylemma]` will fail.)

Maybe you can reformulate that. Other than that, LGTM

bors d+

**Comment by thorimur** [comment]
Note that some of this will be rewritten once the bump of std4 lands (in particular `LawfulOfScientific` will be removed) so it shouldn't be merged until after that :)

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1568~~
* ~~leanprover-community/mathlib4#1711~~
* ~~leanprover/std4#101~~
* ~~leanprover/std4#109~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1568~~
* ~~leanprover-community/mathlib4#1711~~
* ~~leanprover/std4#101~~
* ~~leanprover/std4#109~~
* ~~leanprover-community/mathlib4#3113~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!
